US08859569B2
8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carbonitrile
150 ml of phosphoryl chloride was added to 9.100 g (33.67 mmol) of 8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxamide and it was stirred for 2 h at 120° C. The reaction mixture was concentrated in the rotary evaporator and the residue was mixed with water. The solid was filtered with suction, washed with a little water and dried under high vacuum. 8.02 g (92% of theor.) of the target compound was obtained.

reactant | 8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carboxamide | 33.67 mmol, 9.100 g | FC1=C(CC=2N=C(N3C2N=CC=C3)C(=O)N)C=CC=C1 | C14H11FN4O
solvent | phosphoryl chloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidine-6-carbonitrile | FC1=C(CC=2N=C(N3C2N=CC=C3)C#N)C=CC=C1 | C14H9FN4
